US06586429B2
A mixture of (R)-8-acetyl-3-(5-azidohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (200 mg, 0.534 mmol) and 10% palladium on carbon (50% water, 150 mg) in a solution of ethanol (50 ml) and methanol (10 ml) was treated with hydrogen gas (50 psi) on a Parr sharker at room temperature for 18 hours. After filtering through a pad of celite, the filtrate was concentrated under reduced pressure to provide (R)-8-acetyl-3-(5-aminohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione as a white powder.

reactant | (R)-8-acetyl-3-(5-azidohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 0.534 mmol, 200 mg | C(C)(=O)N1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@@H](C)N=[N+]=[N-])=O)C | C16H22N8O3
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | (R)-8-acetyl-3-(5-aminohexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | C(C)(=O)N1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@@H](C)N)=O)C | C16H24N6O3
